US07449475B2
Methyl 4-methyl-2-[(2S)-oxiran-2-ylmethoxy]benzoate
A mixture of (2S)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate (777.7 mg, 3.0 mmol), methyl 2-hydroxy-4-methylbenzoate ((498.5 mg, 3.0 mmol) and Cs2CO3 (1.17 g, 3.6 mmol) in DMF (10 mL) was stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and H2O. The organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel flash chromatography (0-20% ethyl acetate in petroleum spirit) to give the subtitled compound (500 mg).

reactant | (2S)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate | 3.0 mmol, 777.7 mg | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@H]1OC1 | C9H9NO6S
reactant | methyl 2-hydroxy-4-methylbenzoate | OC1=C(C(=O)OC)C=CC(=C1)C | C9H10O3
reactant | Cs2CO3 | 3.6 mmol, 1.17 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Methyl 4-methyl-2-[(2S)-oxiran-2-ylmethoxy]benzoate | 500 mg | CC1=CC(=C(C(=O)OC)C=C1)OC[C@H]1OC1 | C12H14O4
